US05013814
5.2 g (19.4 mmol) of 4-chlorophenyl 4-chlorobenzyl sulfide, 4.14 g (29.0 mmol) of 4-chlorobenzyl alcohol and 14.15 g (87 mmol) of hydrogen tetrafluoroborate (54% in diethyl ether) in 20 ml of methylene chloride are reacted as in Example 6(a) to give 7.23 g (77.4% of theory) of 4-chlorophenylbis(4-chlorobenzyl)sulfonium tetrafluoroborate in the form of white-beige crystals of melting point 147°-148° C.

reactant | 4-chlorophenyl 4-chlorobenzyl sulfide | 19.4 mmol, 5.2 g | ClC1=CC=C(CSC2=CC=C(C=C2)Cl)C=C1 | C13H10Cl2S
reactant | 4-chlorobenzyl alcohol | 29.0 mmol, 4.14 g | ClC1=CC=C(CO)C=C1 | C7H7ClO
reactant | hydrogen tetrafluoroborate | 87 mmol, 14.15 g | [H+].[B-](F)(F)(F)F
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-chlorophenylbis(4-chlorobenzyl)sulfonium tetrafluoroborate | 7.23 g, 77.4% | F[B-](F)(F)F.ClC1=CC=C(C=C1)[S+](CC1=CC=C(C=C1)Cl)CC1=CC=C(C=C1)Cl | InChI=1S/C20H16Cl3S.BF4/c21-17-5-1-15(2-6-17)13-24(20-11-9-19(23)10-12-20)14-16-3-7-18(22)8-4-16;2-1(3,4)5/h1-12H,13-14H2;/q+1;-1
